US04312662
To a stirred solution containing 10.7 g (0.05 mol) of disodium-N-phosphonomethylglycine in water at a temperature of 10°-15° C. was slowly added 6.6 g (0.055 mol) of allylchloroformate. While maintaining the temperature below 20° C., a 50% sodium hydroxide solution was slowly added to the reaction mixture until the pH of the resulting mixture stabilized at a phenolphthalein endpoint. While maintaining the temperature of the reaction mixture below 10° C., the reaction mixture was acidified using concentrated hydrochloric acid, filtered and the filtrate was then treated with ethanol. The treated filtrate was filtered to remove residual sodium chloride, then concentrated and the concentrate was passed over an acid Dowex-50 ion exchange resin. Methanol was added to the eluate forming a suspension. The suspension was filtered and the filtrate was chromatographed over acid Dowex-50 ion exchange resin. The eluate was concentrated and the residue was dried over potassium hydroxide in vacuo yielding a crude product. The crude product was broken up and redried at 100° C. and 1 mm Hg to yield N-allyloxycarbonyl-N-phosphonomethylglycine trihydrate (8.7 g; 57% yield) having the following analysis: Calculated: C, 27.37; H, 5.91; P, 10.08. Found: C, 27.05; H, 4.71; P, 9.76.

reactant | disodium N-phosphonomethylglycine | 0.05 mol, 10.7 g | [Na][Na].P(=O)(O)(O)CNCC(=O)O
reactant | allylchloroformate | 0.055 mol, 6.6 g | C(C=C)OC(=O)Cl | C4H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-allyloxycarbonyl-N-phosphonomethylglycine trihydrate | 8.7 g, 57% yield | O.O.O.C(C=C)OC(=O)N(CC(=O)O)CP(=O)(O)O | InChI=1S/C7H12NO7P.3H2O/c1-2-3-15-7(11)8(4-6(9)10)5-16(12,13)14;;;/h2H,1,3-5H2,(H,9,10)(H2,12,13,14);3*1H2
